US06846826B2
21.0 grams (0.071 ml) of N-[2-(2-chlorophenoxy)ethyl]phthalimide and 3.55 grams (0.071 mol) of hydrazine hydrate are dissolved in 70 ml of moisture-free alcohol for heating and diffusing over 45 minutes. And stirred with 20 ml 18% HCl heat for diffusing over 1.0 hour. Upon cooling, after filtrating the extracted solids, 20% NaOH is added to alkalize. The mixed solution's organic layer is extracted with chloroform and filtrating the extracted solids with potassium carbonate solution. The generated product is filled into silica gel columns utilizing the ratio of ethyl acetate as the diluent; upon purification, 2-(2-chlorophenoxy) ethylamine is obtained.

reactant | N-[2-(2-chlorophenoxy)ethyl]phthalimide | 0.071 ml, 21.0 grams | ClC1=C(OCCN2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C16H12ClNO3
reactant | hydrazine hydrate | 0.071 mol, 3.55 grams | O.NN
solvent | HCl | 20 ml | Cl | ClH
product | 2-(2-chlorophenoxy) ethylamine | ClC1=C(OCCN)C=CC=C1 | C8H10ClNO
